2132-02-28 06:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Right IJ placed
   - D 10 drip continued throughout the day, requiring D50 boluses
   - Hct dropped to 22.4, thought to be secondary to large amount of
   fluids.  Will check in AM, if not improved, will transfuse.
   - Vascular will postpone fem-[**Doctor Last Name 115**] bypass
   - No renal or neuro recs
   - Decreased D10 drip to 50/hr
   - Restarted sedation as very uncomfortable overnight, awake
 BLOOD CULTURED - At [**2132-2-27**] 08:30 AM
 BLOOD CULTURED - At [**2132-2-27**] 08:35 AM
 MULTI LUMEN - START [**2132-2-27**] 02:47 PM
   Allergies:
   Vancomycin
   Renal Failure-
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2132-2-27**] 08:00 AM
   Dextrose 50% - [**2132-2-27**] 03:00 PM
   Heparin Sodium (Prophylaxis) - [**2132-2-28**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-2-28**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.7
C (99.9
   HR: 102 (86 - 102) bpm
   BP: 147/35(62) {118/23(45) - 161/54(74)} mmHg
   RR: 21 (10 - 21) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  2,256 mL
                                                                    705 mL
   PO:
             TF:
                                                                    113 mL
                                                                    171 mL
   IVF:
                                                                  1,944 mL
                                                                    484 mL
   Blood products:
   Total out:
                                                                  1,745 mL
                                                                    970 mL
   Urine:
                                                                  1,745 mL
                                                                    970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    511 mL
                                                                   -265 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 580 (476 - 692) mL
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 25
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 7.1 L/min
   Physical Examination
   General: spontaneous respirations, appears to turn toward voice, but
   otherwise unreliable
   HEENT: MMM, oropharynx clear, supple.
   Lungs: Moving air well bilaterally, audible upper airway secretions, no
   wheezes or rales.
   CV: Regular rate and rhythm, no apprec m/r/g
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: Pinpoint pupils but respond to light bilaterally. No spontaneous
   movements, does not withdrawl to pain or sternal rub. No posturing
   appreciated. Normal tone. Reflexes: +3 R patellar, +1 L patellar & +2
   reflexes brachioradialis bilaterally.
   Labs / Radiology
   427 K/uL
   7.4 g/dL
   107 mg/dL
   1.4 mg/dL
   25 mEq/L
   3.6 mEq/L
   26 mg/dL
   104 mEq/L
   134 mEq/L
   21.2 %
   15.8 K/uL
         [image002.jpg]
                             [**2132-2-27**]  06:37 AM
                             [**2132-2-27**]  03:55 PM
                             [**2132-2-27**]  07:54 PM
                             [**2132-2-28**]  03:35 AM
   WBC
   17.4
   15.8
   Hct
   22.9
   22.4
   21.2
   Plt
   464
   427
   Cr
   1.6
   1.4
   TCO2
   24
   Glucose
   134
   107
   Other labs: PT / PTT / INR:13.5/31.5/1.2, ALT / AST:22/20, Alk Phos / T
   Bili:186/0.2, Differential-Neuts:85.0 %, Lymph:8.1 %, Mono:4.9 %,
   Eos:1.8 %, LDH:188 IU/L, Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   73 y/o M with PMHx of PVD, dry gangrene, colonic mass, DM and ARF
   thought due to AIN who was transferred to the ICU for acute mental
   status changes and hypoglycemia.
   .
   # Mental Status changes: Pt with acute change in MS in setting of
   persistent hypoglycemia that did not improve with correction of BS or
   administration of Narcan.  Differential includes toxic metabolic
   insults including hypoglycemia, uremia, large CVA, narcosis, meningitis
   or encephalitis, status epilepticus, ICH not seen on head CT.  ABG did
   not reveal any acute hypercarbia or acidosis, Addisons disease much
   less likely given that pt received  Pt is now intubated for airway
   protection and has had return of some spontaneous lower extremity
   movements.  Given normal head CT and return of spontaneous lower
   extremity movements, suspect that hypoglycemic insult is most likely
   source of MS changes
   - Final head CT-microvacsular ischemic changes
   - apprec neuro consult
   - Decrease D10W to 25cc/hr
   - q1hr BS checks, 1 amp of dextrose prn BS<100
   - f/u on blood Cx, Urine Cx-UA evidence of UTI, Fungal Cx
   - f/u on EEG results
   - serial neuro exams
   - Hold TF, attempt to extubate this afternoon after MRI
   .
   # Resp failure/airway protection: Pt was intubated for airway
   protection given GCS score of 3.  Post intubation CXR revealed lower
   lobe infiltrates concerning for aspiration.  Clinically, pt was sating
   well on AC with ABG of 7.46/33/126 and was transitioned to PS of [**6-3**].
   Will remain intubated for now given MS changes and neuro compromise.
   - monitor clinically, CIS
   - start linezolid/zosyn with GPC in sputum and low grade fever curve
   -  hold propofol and monitor neuro status
   - attempt to extubate this afternoon
   -
   # Dry Gangrene: Pt was initially transferred for severe PVD and dry
   gangrene, initially managed by Vascular and transferred to medicine on
   [**2-14**]. Given the open wounds, hypoglycemia and spike in WBCs, will
   repeat Blood/Fungal Cx today.  Pt has been afebrile off antibiotics
   with persistently elevated WBC cts, plan for vascular intervention
   later this week per notes.
   - apprec Vasc surgery recs
   - no Abx for now for wound specifically, but started on Linezolid and
   Zosyn for GPC on sputum
   - blood Cx/fungal Cx
   - wound care consult
   .
   # ARF: per renal consult, most likely AIN secondary to Vanc and
   currently resolving with creatinine of 1.7.  However, hypoglycemia most
   likely due to decreased clearance of glyburide.
   - monitor creatinine daily, gentle IVF
   - avoid nephrotoxins
   - f/u renal rec
   .
   #Anemia: HCT down to 21 this AM
   -Get consent from son
   -Transfuse 1 [**Name2 (NI) 3737**]
   .
   # DM: Holding all oral hypoglycemics, and insulin products for now
   - monitor BS checks q1hr and continue D10W at 25cc/hr
   - dextrose amps prn BS<100
   - restart insulin SS when BS persistently >200
   - Holding TF while potential for extubate
   .
   # HTN: Pt was being treated with metoprolol prior to MS changes
   - will hold anti-hypertensives peri-intubation, monitor BPs and add
   back prn
   .
   # Colonic Mass: first  seen on sigmoidoscopy from [**2-22**].  GI notes refer
   to colonoscopy this week.
   - monitor hct daily
   - f/u GI recs, will likely need colonoscopy in future
   .
   # FEN: TFs via OG-place NG, replete electrolytes prn
   .
   # Prophylaxis: Subcutaneous heparin 5000u sc TID
   - bowel regimen prn
   .
   # Access: 2 x PIV
   .
   # Code: Full, confirmed with HCP
   .
   # Communication: Son [**Name (NI) 152**] [**Telephone/Fax (1) 3706**]
   .
   # Disposition: MICU
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 GANGRENE
 HYPOGLYCEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2132-2-27**] 04:30 PM 35 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-2-27**] 04:15 AM
   22 Gauge - [**2132-2-27**] 04:15 AM
   Multi Lumen - [**2132-2-27**] 02:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2132-02-29 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Trx 1 Unit PRBC
   -NG tube placed
   -MRI overnight
   -Per GI: Prelim path showed adenoma from OSH, apparently needs
   colectomy given size of rectal mass, but family states they were told
   there is nothing further.  Path pending here.
   -Neuro-rec LP, but deferred
   -EEG:pending
   -Sugars remained well controlled on D10 at 50 cc
   -Staph in sputum, no speciation
   Allergies:
   Vancomycin
   Renal Failure-
   Last dose of Antibiotics:
   Linezolid - [**2132-2-29**] 01:08 AM
   Piperacillin/Tazobactam (Zosyn) - [**2132-2-29**] 06:29 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2132-2-28**] 09:14 AM
   Heparin Sodium (Prophylaxis) - [**2132-2-29**] 12:04 AM
   Metoprolol - [**2132-2-29**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-2-29**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.7
C (99.9
   HR: 91 (91 - 115) bpm
   BP: 157/43(66) {107/23(50) - 171/121(106)} mmHg
   RR: 13 (11 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,469 mL
                                                                    760 mL
   PO:
             TF:
                                                                    257 mL
   IVF:
                                                                  2,162 mL
                                                                    760 mL
   Blood products:
   Total out:
                                                                  2,645 mL
                                                                    790 mL
   Urine:
                                                                  2,645 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -176 mL
                                                                    -30 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 650 (530 - 678) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 16
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 7.3 L/min
   Physical Examination
   General: spontaneous respirations, appears to turn toward voice, but
   otherwise unreliable
   HEENT: MMM, oropharynx clear, supple.
   Lungs: Moving air well bilaterally, audible upper airway secretions, no
   wheezes or rales.
   CV: Regular rate and rhythm, no apprec m/r/g
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: Pinpoint pupils but respond to light bilaterally. No spontaneous
   movements, does not withdrawl to pain or sternal rub. No posturing
   appreciated. Normal tone. Reflexes: +3 R patellar, +1 L patellar & +2
   reflexes brachioradialis bilaterally.
   Labs / Radiology
   404 K/uL
   9.6 g/dL
   128 mg/dL
   1.3 mg/dL
   24 mEq/L
   3.7 mEq/L
   18 mg/dL
   101 mEq/L
   134 mEq/L
   26.0 %
   19.7 K/uL
        [image002.jpg]
                             [**2132-2-27**]  06:37 AM
                             [**2132-2-27**]  03:55 PM
                             [**2132-2-27**]  07:54 PM
                             [**2132-2-28**]  03:35 AM
                             [**2132-2-28**]  05:40 PM
                             [**2132-2-29**]  04:00 AM
   WBC
   17.4
   15.8
   19.4
   19.7
   Hct
   22.9
   22.4
   21.2
   26.5
   26.0
   Plt
   [**Telephone/Fax (3) 3758**]04
   Cr
   1.6
   1.4
   1.4
   1.3
   TCO2
   24
   Glucose
   134
   107
   132
   128
   Other labs: PT / PTT / INR:14.3/31.6/1.2, ALT / AST:22/20, Alk Phos / T
   Bili:207/0.5, Differential-Neuts:85.0 %, Lymph:8.1 %, Mono:4.9 %,
   Eos:1.8 %, Albumin:2.4 g/dL, LDH:188 IU/L, Ca++:8.2 mg/dL, Mg++:2.0
   mg/dL, PO4:4.3 mg/dL
   Imaging: CXR: [**2-29**]: Worsening RLL infiltrate
   Microbiology: CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2132-2-28**]):
         Feces negative
   Assessment and Plan
   73 y/o M with PMHx of PVD, dry gangrene, colonic mass, DM and ARF
   thought due to AIN who was transferred to the ICU for acute mental
   status changes and hypoglycemia.
   # Mental Status changes: Pt with acute change in MS in setting of
   persistent hypoglycemia that did not improve with correction of BS or
   administration of Narcan.  Pt is now intubated for airway protection
   and has had return of some spontaneous lower extremity movements.
   Given normal head CT and return of spontaneous lower extremity
   movements, suspect that hypoglycemic insult is most likely source of MS
   changes
   - Neuro consult
   - Decrease D10W to 25cc/hr, continue to wean
   - q1hr BS checks, 1 amp of dextrose prn BS<100
   - f/u on blood Cx, Urine Cx-UA evidence of UTI, Fungal Cx
   - f/u on EEG results
   - serial neuro exams
   - Hold TF, attempt to extubate this afternoon after MRI
   # Resp failure/airway protection: Pt was intubated for airway
   protection given GCS score of 3.  Post intubation CXR revealed lower
   lobe infiltrates concerning for aspiration.  Clinically, pt was sating
   well on AC with ABG of 7.46/33/126 and was transitioned to PS of [**6-3**].
   Will remain intubated for now given MS changes and neuro compromise.
   - monitor clinically, CIS
   - start linezolid/zosyn with GPC in sputum and low grade fever curve
   -  hold propofol and monitor neuro status
   - attempt to extubate this afternoon
   # Dry Gangrene: Pt was initially transferred for severe PVD and dry
   gangrene, initially managed by Vascular and transferred to medicine on
   [**2-14**]. Given the open wounds, hypoglycemia and spike in WBCs, will
   repeat Blood/Fungal Cx today.  Pt has been afebrile off antibiotics
   with persistently elevated WBC cts, plan for vascular intervention
   later this week per notes.
   - apprec Vasc surgery recs
   - no Abx for now for wound specifically, but started on Linezolid and
   Zosyn for GPC on sputum
   - blood Cx/fungal Cx
   - wound care consult
   # ARF: per renal consult, most likely AIN secondary to Vanc and
   currently resolving with creatinine of 1.7.  However, hypoglycemia most
   likely due to decreased clearance of glyburide.
   - monitor creatinine daily, gentle IVF
   - avoid nephrotoxins
   - f/u renal rec
   #Anemia: HCT down to 21 this AM
   -Get consent from son
   -Transfuse 1 [**Name2 (NI) 3737**]
   # DM: Holding all oral hypoglycemics, and insulin products for now
   - monitor BS checks q1hr and continue D10W at 25cc/hr
   - dextrose amps prn BS<100
   - restart insulin SS when BS persistently >200
   - Holding TF while potential for extubate
   # HTN: Pt was being treated with metoprolol prior to MS changes
   - will hold anti-hypertensives peri-intubation, monitor BPs and add
   back prn
   .
   # Colonic Mass: first  seen on sigmoidoscopy from [**2-22**].  GI notes refer
   to colonoscopy this week.
   - monitor hct daily
   - f/u GI recs, will likely need colonoscopy in future
   # FEN: TFs via OG-place NG, replete electrolytes prn
   # Prophylaxis: Subcutaneous heparin 5000u sc TID
   - bowel regimen prn
   # Access: 2 x PIV
   # Code: Full, confirmed with HCP
   # Communication: Son [**Name (NI) 152**] [**Telephone/Fax (1) 3706**]
   # Disposition: MICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2132-2-27**] 02:47 PM
   18 Gauge - [**2132-2-28**] 06:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2132-03-01 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2132-2-29**] 11:30 AM
   [**2132-2-29**]:
   - Extubated
   - More awake, speaking today
   - Path: all adenoma
   - PICC deferred, IJ in place
   Allergies:
   Vancomycin
   Renal Failure-
   Last dose of Antibiotics:
   Linezolid - [**2132-3-1**] 01:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2132-3-1**] 06:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2132-2-29**] 09:55 AM
   Heparin Sodium (Prophylaxis) - [**2132-3-1**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-3-1**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.9
C (98.5
   HR: 104 (94 - 113) bpm
   BP: 176/38(68) {134/30(59) - 179/68(84)} mmHg
   RR: 20 (10 - 22) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  2,049 mL
                                                                    933 mL
   PO:
             TF:
                                                                    156 mL
                                                                    266 mL
   IVF:
                                                                  1,893 mL
                                                                    668 mL
   Blood products:
   Total out:
                                                                  3,040 mL
                                                                    920 mL
   Urine:
                                                                  3,040 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -991 mL
                                                                     13 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 658 (646 - 658) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 0 cmH2O
   FiO2: 35%
   PIP: 5 cmH2O
   SpO2: 97%
   ABG: ///26/
   Ve: 8.1 L/min
   Physical Examination
   General: spontaneous respirations, appears to turn toward voice, but
   otherwise unreliable
   HEENT: MMM, oropharynx clear, supple.
   Lungs: Moving air well bilaterally, audible upper airway secretions, no
   wheezes or rales.
   CV: Regular rate and rhythm, no apprec m/r/g
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: Pinpoint pupils but respond to light bilaterally. No spontaneous
   movements, does not withdrawl to pain or sternal rub. No posturing
   appreciated. Normal tone. Reflexes: +3 R patellar, +1 L patellar & +2
   reflexes brachioradialis bilaterally.
   Labs / Radiology
   419 K/uL
   9.2 g/dL
   135 mg/dL
   1.2 mg/dL
   26 mEq/L
   3.3 mEq/L
   14 mg/dL
   105 mEq/L
   140 mEq/L
   26.3 %
   19.4 K/uL
        [image002.jpg]
                             [**2132-2-27**]  06:37 AM
                             [**2132-2-27**]  03:55 PM
                             [**2132-2-27**]  07:54 PM
                             [**2132-2-28**]  03:35 AM
                             [**2132-2-28**]  05:40 PM
                             [**2132-2-29**]  04:00 AM
                             [**2132-3-1**]  03:14 AM
   WBC
   17.4
   15.8
   19.4
   19.7
   19.4
   Hct
   22.9
   22.4
   21.2
   26.5
   26.0
   26.3
   Plt
   [**Telephone/Fax (3) 3758**]04
   419
   Cr
   1.6
   1.4
   1.4
   1.3
   1.2
   TCO2
   24
   Glucose
   134
   107
   132
   128
   135
   Other labs: PT / PTT / INR:14.3/31.6/1.2, ALT / AST:22/20, Alk Phos / T
   Bili:207/0.5, Differential-Neuts:85.0 %, Lymph:8.1 %, Mono:4.9 %,
   Eos:1.8 %, Albumin:2.4 g/dL, LDH:188 IU/L, Ca++:8.2 mg/dL, Mg++:1.9
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   73 y/o M with PMHx of PVD, dry gangrene, colonic mass, DM and ARF
   thought due to AIN who was transferred to the ICU for acute mental
   status changes and hypoglycemia.
   # Mental Status changes: Pt with acute change in MS in setting of
   persistent hypoglycemia that did not improve with correction of BS or
   administration of Narcan.  Pt is now intubated for airway protection
   and has had return of some spontaneous lower extremity movements.
   Given normal head CT and return of spontaneous lower extremity
   movements, suspect that hypoglycemic insult is most likely source of MS
   changes
   - Neuro consult
   - Continue D10W to 25cc/hr
   - q1hr BS checks, 1 amp of dextrose prn BS<100
   - serial neuro exams
   - Hold TF, attempt to extubate this afternoon
   - F/U MRI
   # Resp failure/airway protection: Pt was intubated for airway
   protection given GCS score of 3.  Post intubation CXR revealed lower
   lobe infiltrates concerning for aspiration.  Clinically, pt was sating
   well on AC with ABG of 7.46/33/126 and was transitioned to PS of [**6-3**].
   Will remain intubated for now given MS changes and neuro compromise.
   - monitor clinically, CIS
   - start linezolid/zosyn with GPC in sputum and low grade fever curve 7
   day course ending [**2132-3-5**]
   -  hold propofol and monitor neuro status
   - attempt to extubate this afternoon
   # Dry Gangrene: Pt was initially transferred for severe PVD and dry
   gangrene, initially managed by Vascular and transferred to medicine on
   [**2-14**]. Given the open wounds, hypoglycemia and spike in WBCs, will
   repeat Blood/Fungal Cx today.  Pt has been afebrile off antibiotics
   with persistently elevated WBC cts, plan for vascular intervention
   later this week per notes.
   - apprec Vasc surgery recs
   - no Abx for now for wound specifically
   - blood Cx/fungal Cx
   - wound care consult
   # ARF: per renal consult, most likely AIN secondary to Vanc and
   currently resolving with creatinine of 1.7.  However, hypoglycemia most
   likely due to decreased clearance of glyburide.
   - monitor creatinine daily, gentle IVF
   - avoid nephrotoxins
   - f/u renal rec
   #Anemia: HCT down to 21 this AM
   -Get consent from son
   -Transfuse 1 [**Name2 (NI) 3737**]
   # DM: Holding all oral hypoglycemics, and insulin products for now
   - monitor BS checks q1hr and continue D10W at 25cc/hr
   - dextrose amps prn BS<100
   - restart insulin SS when BS persistently >200
   - Holding TF while potential for extubate
   # HTN: Pt was being treated with metoprolol prior to MS changes
   - will hold anti-hypertensives peri-intubation, monitor BPs and add
   back prn
   .
   # Colonic Mass: first  seen on sigmoidoscopy from [**2-22**].  GI notes refer
   to colonoscopy this week.
   - monitor hct daily
   - f/u GI recs, will likely need colonoscopy in future
   # FEN: TFs via OG-place NG, replete electrolytes prn
   # Prophylaxis: Subcutaneous heparin 5000u sc TID
   - bowel regimen prn
   # Access: RIJ
   # Code: Full, confirmed with HCP
   # Communication: Son [**Name (NI) 152**] [**Telephone/Fax (1) 3706**]
   # Disposition: MICU
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 GANGRENE
 HYPOGLYCEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2132-2-29**] 05:29 PM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2132-2-27**] 02:47 PM
   18 Gauge - [**2132-2-28**] 06:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2132-03-01 10:04:00 Physician Attending Progress Note
Chief Complaint: hypoglycemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   73 yo man with severe PVD, DM II, admitted with severe hypoglycemia,
   confusion, intubated in setting of oral hypoglycemics.  Improved,
   extubated.  Also found to have rectal mass bx with adenoma.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2132-2-29**] 11:30 AM
   Allergies:
   Vancomycin
   Renal Failure-
   Last dose of Antibiotics:
   Linezolid - [**2132-3-1**] 01:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2132-3-1**] 06:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2132-3-1**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2132-3-1**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: low grade fevers
   Cardiovascular: No(t) Chest pain
   Nutritional Support: Tube feeds
   Musculoskeletal: No(t) Joint pain
   Heme / Lymph: Anemia
   Psychiatric / Sleep: No(t) Agitated, disoriented
   Flowsheet Data as of  [**2132-3-1**] 10:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.5
C (97.7
   HR: 101 (97 - 113) bpm
   BP: 139/43(65) {134/30(59) - 179/68(84)} mmHg
   RR: 17 (10 - 21) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  2,049 mL
                                                                  1,227 mL
   PO:
             TF:
                                                                    156 mL
                                                                    426 mL
   IVF:
                                                                  1,893 mL
                                                                    800 mL
   Blood products:
   Total out:
                                                                  3,040 mL
                                                                  1,290 mL
   Urine:
                                                                  3,040 mL
                                                                  1,280 mL
   NG:
   10 mL
   Stool:
   Drains:
   Balance:
                                                                   -991 mL
                                                                    -63 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 658 (658 - 658) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 0 cmH2O
   FiO2: 35%
   PIP: 5 cmH2O
   SpO2: 95%
   ABG: ///26/
   Ve: 8.1 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, left foot black, dry gangrene
   Skin:  Cool
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): to name only, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   9.2 g/dL
   419 K/uL
   135 mg/dL
   1.2 mg/dL
   26 mEq/L
   3.3 mEq/L
   14 mg/dL
   105 mEq/L
   140 mEq/L
   26.3 %
   19.4 K/uL
        [image002.jpg]
                             [**2132-2-27**]  06:37 AM
                             [**2132-2-27**]  03:55 PM
                             [**2132-2-27**]  07:54 PM
                             [**2132-2-28**]  03:35 AM
                             [**2132-2-28**]  05:40 PM
                             [**2132-2-29**]  04:00 AM
                             [**2132-3-1**]  03:14 AM
   WBC
   17.4
   15.8
   19.4
   19.7
   19.4
   Hct
   22.9
   22.4
   21.2
   26.5
   26.0
   26.3
   Plt
   [**Telephone/Fax (3) 3758**]04
   419
   Cr
   1.6
   1.4
   1.4
   1.3
   1.2
   TCO2
   24
   Glucose
   134
   107
   132
   128
   135
   Other labs: PT / PTT / INR:14.3/31.6/1.2, ALT / AST:22/20, Alk Phos / T
   Bili:207/0.5, Differential-Neuts:85.0 %, Lymph:8.1 %, Mono:4.9 %,
   Eos:1.8 %, Albumin:2.4 g/dL, LDH:188 IU/L, Ca++:8.2 mg/dL, Mg++:1.9
   mg/dL, PO4:4.0 mg/dL
   Microbiology: staph aureus in sputum
   Assessment and Plan
 HYPOGLYCEMIA:  Now off D10, glucose has been stable.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**]):  Extubated and stable.
   ?aspiration should be covered by linezolid/zosyn
   LE ulcer:  like has chronic osteo with high WBC.  Continue linezolid
   and zosyn.
   Anemia:  Blood loss from adenoma + chronic disease
   Colonic mass:  bx with adenoma, but still may be cancerous, will need
   resection.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2132-3-1**] 07:47 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2132-2-27**] 02:47 PM
   18 Gauge - [**2132-2-28**] 06:37 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes